US07893058B2
Step 2: 4-(5-Bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid
A solution of 4-(5-bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid methyl ester (6.02 g, 17.3 mmol) and LiOH (7.3 g, 174 mmol) in THF (200 mL) and water (200 mL) is stirred at 25° C. for 18 hours. The majority of the solvents are removed in vacuo, then to the remaining aqueous solution is added EtOAc. The aqueous layer is separated, then washed once more EtOAc. The aqueous phase is separated, acidified to pH 5 using concentrated hydrochloric acid and the resultant solid filtered and dried in the vacuum oven. The solid is identified as the desired title acid.

reactant | 4-(5-bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid methyl ester | 17.3 mmol, 6.02 g | COC(C1=CC=C(C=C1)NC=1C=2N(C(=CN1)Br)C=CN2)=O | C14H11BrN4O2
reactant | LiOH | 174 mmol, 7.3 g | [Li+].[OH-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 4-(5-Bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C(=O)O)C=C2 | C13H9BrN4O2
